US06503903B1
b) 1-(4-Benzyloxybenzyl)-2-(methylaminomethyl)indole
According to the procedure of Preparation 1(b), except substituting 1-(4-benzyloxybenzyl)-N-methylindole-2-carboxamide (44.4 g, 120.1 mmole) for the N,1-dimethylindole-2-carboxamide, the title compound (27.0 g, 63%) was prepared as a white solid: MS (ES) m/e 358 (M+H)+.

reactant | 1-(4-benzyloxybenzyl)-N-methylindole-2-carboxamide | 120.1 mmole, 44.4 g | C(C1=CC=CC=C1)OC1=CC=C(CN2C(=CC3=CC=CC=C23)C(=O)NC)C=C1 | C24H22N2O2
reactant | N,1-dimethylindole-2-carboxamide | CNC(=O)C=1N(C2=CC=CC=C2C1)C | C11H12N2O
product | 1-(4-Benzyloxybenzyl)-2-(methylaminomethyl)indole | 27.0 g, 63% | C(C1=CC=CC=C1)OC1=CC=C(CN2C(=CC3=CC=CC=C23)CNC)C=C1 | C24H24N2O
